US04146624
2,8-Bis(diethylaminoacetyl)dibenzofuran dihydrochloride hemihydrate
To a mixture of 25.0 g (0.078 mole) of 2,8-bis(chloroacetyl)dibenzofuran and 100 ml of tetrahydrofuran, cooled in an ice/water bath, was added 100 ml of diethylamine over a 20 minute period. The mixture was refluxed gently for 24 hours then filtered while hot. The solvent was removed in vacuo, and the remaining residue was slurried with ether and filtered. The filtrate was treated with ethereal HCl to give the desired product which was recrystallized from methanol-ether then from ethanol-ether. M.P. 225°-227° C. (dec), λmaxH2O 254, E1cm1% 1250.

reactant | 2,8-bis(chloroacetyl)dibenzofuran | 0.078 mole, 25.0 g | ClCC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CCl)=O)C=C1 | C16H10Cl2O3
reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,8-Bis(diethylaminoacetyl)dibenzofuran dihydrochloride hemihydrate | O.Cl.Cl.C(C)N(CC)CC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CN(CC)CC)=O)C=C1.C(C)N(CC)CC(=O)C1=CC3=C(OC2=C3C=C(C=C2)C(CN(CC)CC)=O)C=C1.Cl.Cl | InChI=1S/2C24H30N2O3.4ClH.H2O/c2*1-5-25(6-2)15-21(27)17-9-11-23-19(13-17)20-14-18(10-12-24(20)29-23)22(28)16-26(7-3)8-4;;;;;/h2*9-14H,5-8,15-16H2,1-4H3;4*1H;1H2
